US09328099B2
2,2,2-Trifluoroethyl 4-{4-carbamoyl-3-[(2-fluoropyridin-4-yl)amino]-1H-pyrazol-1-yl}-4-(cyanomethyl)piperidine-1-carboxylate
To a solution of 2,2,2-trifluoroethanol (15 mg, 0.15 mmol) in acetonitrile (1.0 mL) was added TEA (0.043 mL, 0.31 mmol) followed by N,N′-disuccinimidyl carbonate (59 mg, 0.23 mmol). The resulting mixture was allowed to stir at ambient temperature for 4 hours. A solution of 4-{4-carbamoyl-3-[(2-fluoropyridin-4-yl)amino]-1H-pyrazol-1-yl}-4-(cyanomethyl)piperidinium trifluoroacetate (Intermediate #38-4) (70 mg, 0.15 mmol) and TEA (0.043 mL, 0.31 mmol) in DMSO (1.0 mL) was then added to the reaction mixture dropwise. The resulting mixture was heated to 50° C. and allowed to stir for 16 hours. The crude reaction mixture was cooled to ambient temperature and purified directly by reverse-phase preparative HPLC (MeCN/water, with 0.1% v/v TFA modifier). Desired fractions were identified, combined, and concentrated in vacuo to afford the title compound, Example #30-1.

reactant | 2,2,2-trifluoroethanol | 0.15 mmol, 15 mg | FC(CO)(F)F | C2H3F3O
reactant | N,N′-disuccinimidyl carbonate | 0.23 mmol, 59 mg | C1CC(=O)N(C1=O)OC(=O)ON2C(=O)CCC2=O | C9H8N2O7
reactant | 4-{4-carbamoyl-3-[(2-fluoropyridin-4-yl)amino]-1H-pyrazol-1-yl}-4-(cyanomethyl)piperidinium trifluoroacetate | 0.15 mmol, 70 mg | FC(C(=O)[O-])(F)F.C(N)(=O)C=1C(=NN(C1)C1(CC[NH2+]CC1)CC#N)NC1=CC(=NC=C1)F
solvent | acetonitrile | 1.0 mL | C(C)#N | C2H3N
solvent | DMSO | 1.0 mL | CS(=O)C | C2H6OS
product | 2,2,2-Trifluoroethyl 4-{4-carbamoyl-3-[(2-fluoropyridin-4-yl)amino]-1H-pyrazol-1-yl}-4-(cyanomethyl)piperidine-1-carboxylate | C(N)(=O)C=1C(=NN(C1)C1(CCN(CC1)C(=O)OCC(F)(F)F)CC#N)NC1=CC(=NC=C1)F | C19H19F4N7O3
